US07700655B2
(1) (S)-2-Amino-4-methyl-N-[3,5-bis(trifluoromethyl)phenyl]pentanamide
Using N-(tert-butoxycarbonyl)-L-leucine and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the Example 302(1) gave the title compound.

reactant | N-(tert-butoxycarbonyl)-L-leucine | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | (S)-2-Amino-4-methyl-N-[3,5-bis(trifluoromethyl)phenyl]pentanamide | Yield: 25.2% | N[C@H](C(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC(C)C | C14H16F6N2O
